US04367238
A solution of ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]acetate (5 g) in dimethylformamide (10 ml) was added dropwise to a suspension of sodium hydride (65%, 600 mg) in dimethylformamide (30 ml) in 10 minutes at temperature below 10° C. with stirring, and the mixture was stirred at the same temperature for 10 minutes. n-Pentyl chloride (3.3 g) was added to the mixture and stirred at 110° C. for 2 hours. The reaction mixture was treated in a similar manner to that of Example 25-(1) to give oily ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]-n-heptanoate (5.9 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]acetate | 5 g | C(#N)C(C(=O)OCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C19H19NO4
reactant | sodium hydride | 600 mg | [H-].[Na+]
reactant | n-Pentyl chloride | 3.3 g | C(CCCC)Cl | C5H11Cl
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]-n-heptanoate | 5.9 g | C(#N)C(C(=O)OCC)(CCCCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C24H29NO4
